US05389293
To a mixed solvent of 200 ml of ethanol and 100 ml of chloroform were added 35.5 g (0.1 mole) of 2-(4-acetylphenyl)-5-decyloxypyrimidine, and while maintaining the temperature at 30° to 35° C., 2.65 g (0.07 mole) of sodium borohydride were gradually added thereto. After stirring at the same temperature for 4 hours, the reaction mixture was poured into 500 ml of water and extracted with 400 ml of ethyl acetate. The organic phase was washed sufficiently, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain 35.6 g (yield: 99.9%) of 2-{4-(1-hydroxyethyl)phenyl}-5-decyloxypyrimidine.

reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(4-acetylphenyl)-5-decyloxypyrimidine | 0.1 mole, 35.5 g | C(C)(=O)C1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC | C22H30N2O2
reactant | sodium borohydride | 0.07 mole, 2.65 g | [BH4-].[Na+]
solvent | water | 500 ml | O | H2O
product | 2-{4-(1-hydroxyethyl)phenyl}-5-decyloxypyrimidine | 35.6 g, yield: 99.9% | OC(C)C1=CC=C(C=C1)C1=NC=C(C=N1)OCCCCCCCCCC | C22H32N2O2
